US06008219
7-(R,S)-(N-(4-(4-Phenylbenzoylamino)butyl)propylamino)-5,6,7,8-tetrahydronaphthalene-2-carboxamide
To a solution of 7-cyano-N-(4-(4-phenylbenzoylamino)butyl)-2-(R,S)-propylamino-1,2,3,4-tetrahydronaphthalene (0.983 g, 2.11 mmol) in dimethyl sulfoxide (4 ml) at 15° C. was added a solution of hydrogen peroxide in water (27.5% w/v; 0.26 ml; 2.12 mmol) followed by anhydrous potassium carbonate (0.42 g, 3.06 mmol). The mixture was stirred for 6 h at room temperature, then poured into water (100 ml) and the resulting solid filtered off to give the title compound (0.84 g, 82%).

reactant | 7-cyano-N-(4-(4-phenylbenzoylamino)butyl)-2-(R,S)-propylamino-1,2,3,4-tetrahydronaphthalene | 2.11 mmol, 0.983 g | C(#N)C1=CC=C2CCC(CC2=C1)N(CCCCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O)CCC | C31H35N3O
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 2.12 mmol, 0.26 ml | O | H2O
reactant | potassium carbonate | 3.06 mmol, 0.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 7-(R,S)-(N-(4-(4-Phenylbenzoylamino)butyl)propylamino)-5,6,7,8-tetrahydronaphthalene-2-carboxamide | 0.84 g, 82% | C1(=CC=CC=C1)C1=CC=C(C(=O)NCCCCN(C2CCC=3C=CC(=CC3C2)C(=O)N)CCC)C=C1 | C31H37N3O2
